*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC7649S-360
* Inductance = 0.036uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLC7649S-360_freq port1 port2 PARAMS: Cpar=63pF Ind=0.036uH
X1 port1 port2 Model1A PARAMS:
+ R1=42
+ R2=0.17
+ C= {Cpar}
+ K1=0.0000012
+ K2=0.016
+ K3= {Ind}
+ K4=0.0001
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=25.020351
.ends SLC7649S-360_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC7649S-360
* Inductance = 0.036uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLC7649S-360_imp port1 port2 PARAMS: Cpar=61.79pF Ind=0.036uH
X1 port1 port2 Model1D PARAMS:
+ R1=42
+ R2=0.17
+ C= {Cpar}
+ K1=0.0000012
+ K2=0.016
+ K3= {Ind}
+ K4=0.0001
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=25.020351
.ends SLC7649S-360_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC7649S-500
* Inductance = 0.05uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLC7649S-500_freq port1 port2 PARAMS: Cpar=73pF Ind=0.05uH
X1 port1 port2 Model1A PARAMS:
+ R1=42
+ R2=0.17
+ C= {Cpar}
+ K1=0.0000012
+ K2=0.014
+ K3= {Ind}
+ K4=0.0002
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=26.6618374
.ends SLC7649S-500_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC7649S-500
* Inductance = 0.05uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLC7649S-500_imp port1 port2 PARAMS: Cpar=71.04pF Ind=0.05uH
X1 port1 port2 Model1D PARAMS:
+ R1=42
+ R2=0.17
+ C= {Cpar}
+ K1=0.0000012
+ K2=0.014
+ K3= {Ind}
+ K4=0.0002
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=26.6618374
.ends SLC7649S-500_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC7649S-700
* Inductance = 0.07uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLC7649S-700_freq port1 port2 PARAMS: Cpar=90pF Ind=0.07uH
X1 port1 port2 Model1A PARAMS:
+ R1=46
+ R2=0.17
+ C= {Cpar}
+ K1=0.0000018
+ K2=0.015
+ K3= {Ind}
+ K4=0.0009
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=26.9921706
.ends SLC7649S-700_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC7649S-700
* Inductance = 0.07uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLC7649S-700_imp port1 port2 PARAMS: Cpar=82.56pF Ind=0.07uH
X1 port1 port2 Model1D PARAMS:
+ R1=46
+ R2=0.17
+ C= {Cpar}
+ K1=0.0000018
+ K2=0.015
+ K3= {Ind}
+ K4=0.0009
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=26.9921706
.ends SLC7649S-700_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC7649S-101
* Inductance = 0.1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLC7649S-101_freq port1 port2 PARAMS: Cpar=100pF Ind=0.1uH
X1 port1 port2 Model1A PARAMS:
+ R1=42
+ R2=0.17
+ C= {Cpar}
+ K1=0.0000018
+ K2=0.016
+ K3= {Ind}
+ K4=0.0005
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=31.5653823
.ends SLC7649S-101_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC7649S-101
* Inductance = 0.1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLC7649S-101_imp port1 port2 PARAMS: Cpar=96.90pF Ind=0.1uH
X1 port1 port2 Model1D PARAMS:
+ R1=42
+ R2=0.17
+ C= {Cpar}
+ K1=0.0000018
+ K2=0.016
+ K3= {Ind}
+ K4=0.0005
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=31.5653823
.ends SLC7649S-101_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC7649S-121
* Inductance = 0.122uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLC7649S-121_freq port1 port2 PARAMS: Cpar=120pF Ind=0.122uH
X1 port1 port2 Model1A PARAMS:
+ R1=42
+ R2=0.17
+ C= {Cpar}
+ K1=0.00000188
+ K2=0.0297
+ K3= {Ind}
+ K4=0.00119
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=34.1498446
.ends SLC7649S-121_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC7649S-121
* Inductance = 0.122uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLC7649S-121_imp port1 port2 PARAMS: Cpar=112.96pF Ind=0.122uH
X1 port1 port2 Model1D PARAMS:
+ R1=42
+ R2=0.17
+ C= {Cpar}
+ K1=0.00000188
+ K2=0.0297
+ K3= {Ind}
+ K4=0.00119
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=34.1498446
.ends SLC7649S-121_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC7649S-151
* Inductance = 0.152uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLC7649S-151_freq port1 port2 PARAMS: Cpar=145pF Ind=0.152uH
X1 port1 port2 Model1A PARAMS:
+ R1=39.6
+ R2=0.17
+ C= {Cpar}
+ K1=0.00000328
+ K2=0.024
+ K3= {Ind}
+ K4=0.00151
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=33.6383325
.ends SLC7649S-151_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLC7649S-151
* Inductance = 0.152uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLC7649S-151_imp port1 port2 PARAMS: Cpar=136.64pF Ind=0.152uH
X1 port1 port2 Model1D PARAMS:
+ R1=39.6
+ R2=0.17
+ C= {Cpar}
+ K1=0.00000328
+ K2=0.024
+ K3= {Ind}
+ K4=0.00151
+ K5=0.0000098
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=33.6383325
.ends SLC7649S-151_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
